US07750145B2
3-(2,3,4,6-Tetra-O-benzyl-β-D-glucopyranosyl)-7-chloro-1-[4-(2-hydroxyethyl)benzyl]-1H-indole
To a solution of 3-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-7-chloro-1H-indole (0.48 g) in N,N-dimethylformamide (5 mL) was added 55% sodium hydride (37 mg) under ice-cooling, and the mixture was stirred at the same temperature for 15 minutes. To this mixture was added a solution of 4-[2-(tert-butyldiphenylsilyloxy)ethyl]benzyl bromide (0.42 g) in tetra hydrofuran (2 mL) at the same temperature, and the mixture was stirred at the same temperature for 15 minutes, and stirred at room temperature for 1 hour. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was dissolved in tetra hydrofuran (5 mL). To the solution was added tetra(n-butyl)ammonium fluoride (1.0 mol/L tetra hydrofuran solution, 1.07 mL), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was washed with a mixed solvent of n-hexane and ethyl acetate (5/1), and dried under reduced pressure to give the title compound (0.50 g).

reactant | 3-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-7-chloro-1H-indole | 0.48 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CNC2=C(C=CC=C12)Cl | C42H40ClNO5
reactant | sodium hydride | 37 mg | [H-].[Na+]
reactant | 4-[2-(tert-butyldiphenylsilyloxy)ethyl]benzyl bromide | 0.42 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC1=CC=C(CBr)C=C1 | C25H29BrOSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | tetra hydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-(2,3,4,6-Tetra-O-benzyl-β-D-glucopyranosyl)-7-chloro-1-[4-(2-hydroxyethyl)benzyl]-1H-indole | 0.50 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CN(C2=C(C=CC=C12)Cl)CC1=CC=C(C=C1)CCO | C51H50ClNO6
